US07399759B2
tert-Butyl 3-[6-(7-fluoro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate
tert-Butyl 3-(6-cyano-2-pyridyl)propanoate (1.5 g, 6.5 mmol) and 4-fluorothiosalicylic acid (1.7 g, 9.7 mmol) were dissolved in pyridine (10 ml), and the mixture was refluxed for 15 hrs. The solvent was evaporated, and the residue was subjected to a silica gel column chromatography. The fractions eluted with hexane-ethyl acetate (3:1, v/v) were collected, concentrated and recrystallized from hexane-ethyl acetate to give the titled compound (1.36 g, 54%) as white crystals.

reactant | tert-Butyl 3-(6-cyano-2-pyridyl)propanoate | 6.5 mmol, 1.5 g | C(#N)C1=CC=CC(=N1)CCC(=O)OC(C)(C)C | C13H16N2O2
reactant | 4-fluorothiosalicylic acid | 9.7 mmol, 1.7 g | FC=1C=C(C(C(=O)O)=CC1)S | C7H5FO2S
solvent | pyridine | 10 ml | N1=CC=CC=C1 | C5H5N
product | tert-Butyl 3-[6-(7-fluoro-4-oxo-4H-1,3-benzothiazin-2-yl)-2-pyridyl]propanoate | 1.36 g, 54% | FC1=CC2=C(C(N=C(S2)C2=CC=CC(=N2)CCC(=O)OC(C)(C)C)=O)C=C1 | C20H19FN2O3S
